US04220795
C. Preparation of 3-Ethyl-1,1-dicarbethoxycyclobutane
Sodium metal (7.6 g, 0.33 g/atom) was dispersed in 50 ml of dry xylene (distilled from sodium hydride) by heating to 130° C. with rapid stirring. Dry xylene (168 ml) and 47.8 g (45.2 ml, 0.298 mole) of diethyl malonate were then added thereto and the mixture was allowed to react at 120° C. To the resultant mixture there was then added 48.1 g (0.116 mole) of 2-ethyl-propyl-1,3-ditosylate (prepared in 1B) dissolved in 120 ml of dry xylene. This reaction mixture was heated to about 150° C. and stirred for 18 hr. The mixture was cooled and poured into 500 ml of water and extracted with 600 ml (3×300 ml) of ether. The aqueous material was made acidic with 10% aqueous HCl and then extracted with 600 ml (2×300 ml) of ether. The combined ether extract was washed with 200 ml of saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered and the solvent was removed in vacuo. Distillation of the product at reduced pressure yielded 7.0 g of the title compound having the following physical characteristics:

reactant | Sodium | 7.6 g | [Na] | Na
reactant | diethyl malonate | 0.298 mole, 45.2 ml, 47.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | water | 500 ml | O | H2O
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | xylene | 168 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Ethyl-1,1-dicarbethoxycyclobutane | 7.0 g | C(C)C1CC(C1)(C(=O)OCC)C(=O)OCC | C12H20O4
